US07919504B2
(S)-2-(tert-Butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoic acid.
To a LiOH solution (1.0 M in 1:1:1 water:MeOH:THF, 75 mL) was added (S)-methyl 2-(tert-butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoate (3.8 g, 10.9 mmol). The reaction was stirred at room temperature for 30 minutes. The organic solvent in the reaction mixture was evaporated. The residue was diluted with EtOAc, washed with saturated ammonium chloride (2×100 mL), and dried over sodium sulfate. The solvent was removed to provide the product as a white solid (2.4 g, 66%). LCMS (API-ES) m/z (%): 335.0 (100%, M+H+).

reactant | LiOH | 1.0 M, 75 mL | [Li+].[OH-]
reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoate | 10.9 mmol, 3.8 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC=1C=NC(=CC1)C(F)(F)F | C15H19F3N2O4
product | (S)-2-(tert-Butoxycarbonylamino)-3-(6-(trifluoromethyl)pyridin-3-yl)propanoic acid | 2.4 g, 66% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1C=NC(=CC1)C(F)(F)F | C14H17F3N2O4
